US04128573
2-Fluorophenol (2.35 g.) was fused with potassium hydroxide (1.7 g.) and a few drops of water by heating to 180° C. 2-(4-Iodophenyl)propionic acid (2.76 g.) and copper powder (0.1 g.) were then added and the melt ws heated at 160°-170° C. for 1 hour. The cooled solid was partitioned with methylene chloride (50 ml.) and 2.5N sodium hydroxide (50 ml.). The aqueous layer was acidified with hydrochloric acid, the resulting gum was extracted into ether, and the ether extract was extracted with saturated potassium carbonate solution. This aqueous extract was acidified with hydrochloric acid and the product isolated in ether. After evaporation the resulting solid was purified by preparative layer chromatography using 5% acetic acid/petroleum ether b.p. 62°-68° C. and eluting with ethyl acetate. Recrystallization from petroleum ether b.p. 62°-68° C. gave 2-[4-(2-fluorophenoxy)phenyl]propionic acid, m.p. 106°-108° C.

reactant | 2-Fluorophenol | 2.35 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | potassium hydroxide | 1.7 g | [OH-].[K+]
reactant | 2-(4-Iodophenyl)propionic acid | 2.76 g | IC1=CC=C(C=C1)C(C(=O)O)C | C9H9IO2
catalyst | water | a few drops | O | H2O
catalyst | copper | 0.1 g | [Cu] | Cu
product | 2-[4-(2-fluorophenoxy)phenyl]propionic acid | FC1=C(OC2=CC=C(C=C2)C(C(=O)O)C)C=CC=C1 | C15H13FO3
